US04123614
1-Nitrophenol (2.6 grams; 19 mmole) is added to a mixture of 2,3-epoxypropanol (1.16 g; 15.6 mmole), anhydrous methanol (10 ml.) and sodium methylate (1.0 g.). After five hours under reflux, the solvent is evaporated and the residue chromatographed on preparative silicic acid plates using chloroform-methanol (9:1) to yield 1,2-dihydroxy-3-(4-nitrophenyloxy)-propane which may be crystallized from chloroform-ethyl acetate. In a similar manner, 1,2-dihydroxy-4-(4-nitrophenyloxy)-butane is prepared.

reactant | 1-Nitrophenol | 19 mmole, 2.6 grams | [N+](=O)([O-])C1(CC=CC=C1)O | C6H7NO3
reactant | 2,3-epoxypropanol | 15.6 mmole, 1.16 g | O1C(CO)C1 | C3H6O2
reactant | sodium methylate | 1.0 g | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 1,2-dihydroxy-3-(4-nitrophenyloxy)-propane | OCC(COC1=CC=C(C=C1)[N+](=O)[O-])O | C9H11NO5
